US07851473B2
1-Benzyl-4-(5-chloro-1,2,4-thiadiazol-3-yl)piperazine
To a solution of 4-benzylpiperazine-1-carboximidamide (2.50 g, 11.5 mmol) and perchloromethyl mercaptan (1.24 ml, mmol) in methylene chloride (12 ml) was added dropwise a solution of sodium hydroxide (1.84 g, 46.0 mmol) in water (5 ml) under ice-cooling. The mixture was stirred under ice-cooling for 1 hour and at room temperature for 1 hour. The reaction mixture was poured to water, and the organic layer was separated and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to give 1.00 g (29.6%) of the desired product as an oil.

reactant | 4-benzylpiperazine-1-carboximidamide | 11.5 mmol, 2.50 g | C(C1=CC=CC=C1)N1CCN(CC1)C(N)=N | C12H18N4
reactant | perchloromethyl mercaptan | 1.24 ml | ClC(Cl)(Cl)S | CHCl3S
reactant | sodium hydroxide | 46.0 mmol, 1.84 g | [OH-].[Na+]
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
solvent | water | 5 ml | O | H2O
product | 1-Benzyl-4-(5-chloro-1,2,4-thiadiazol-3-yl)piperazine | 1.00 g, 29.6% | C(C1=CC=CC=C1)N1CCN(CC1)C1=NSC(=N1)Cl | C13H15ClN4S
